US04876261
530 mg of α-[[(4-methylbenzyl)amino]methyl]-3,4-dimethoxybenzyl alcohol was dissolved in 4 ml of trifluoroacetic acid, and after adding thereto 0.12 ml of conc. sulfuric acid under ice cooling, the mixture was allowed to react for 30 minutes. The reaction solution was concentrated, and subjected to azeotropic distillation with toluene 2 times. After adding chloroform, the mixture was basified by addition of 28% aqueous ammonia. By a separating procedure, the chloroform layer was collected, was washed with water once, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was recrystallized from ethyl acetate-n-hexane, giving 490 mg of 4-(3,4-dimethoxyphenyl)-6-methyl-1,2,3,4-tetrahydroisoquinoline (melting point: 94°-96° C.). (2) To 450 mg of 4-(3,4-dimethoxyphenyl)-6-methyl-1,2,3,4-tetrahydroisoquinoline, was added 9 ml of 48% hydrobromic acid, and the mixture was heated under reflux under an argon gas stream for 3 hours. The reaction solution was cooled, and the crystals which separated out were collected by filtration, giving 390 mg of 4-(3,4-dihydroxyphenyl)-6 -methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | α-[[(4-methylbenzyl)amino]methyl]-3,4-dimethoxybenzyl alcohol | 530 mg | CC1=CC=C(CNCC(C2=CC(=C(C=C2)OC)OC)O)C=C1 | C18H23NO3
reactant | sulfuric acid | 0.12 ml | S(O)(O)(=O)=O | H2O4S
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(3,4-dimethoxyphenyl)-6-methyl-1,2,3,4-tetrahydroisoquinoline | 490 mg | COC=1C=C(C=CC1OC)C1CNCC2=CC=C(C=C12)C | C18H21NO2
